US05863947
A solution of 5-(4-cyano-2-vinylphenyl)hydantoin (75 mg, 0.35 mmol) in methanol (20 ml) was shaken with 10% palladium-carbon (10 mg) under an atmosphere of hydrogen for 0.5 hours at 25 p.s.i. The catalyst was removed by filtration to give 5-(4-cyano-2-ethylphenyl)hydantoin in a quantitative yield as a colourless oil.

reactant | 5-(4-cyano-2-vinylphenyl)hydantoin | 0.35 mmol, 75 mg | C(#N)C1=CC(=C(C=C1)C1C(NC(N1)=O)=O)C=C | C12H9N3O2
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium-carbon | 10 mg | [C].[Pd]
product | 5-(4-cyano-2-ethylphenyl)hydantoin | quantitative yield | C(#N)C1=CC(=C(C=C1)C1C(NC(N1)=O)=O)CC | C12H11N3O2
